US08258130B2
A solution of 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (5-fluoro-indol-1-yl)-amide (300 mg, 0.824 mmol) in MeCN (20 mL) is treated with NCS (185 mg, 1.42 mmol) and the mixture is stirred at 60° C. in a sealed flask for 2 h. The mixture is then concentrated, diluted with 10% aqueous Na2S2O8 (20 mL), and extracted with EtOAc (3×20 mL). The combined organic layer is separated, dried (Na2SO4), filtered and concentrated in vacuo. The residue is purified by silica gel chromatography eluting with 10%-20% EtOAc in heptane to afford 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylicacid(3 chloro-5-fluoro-indol-1-yl)-amide (160 mg, 49%). MS: 399 (M+H); 1H NMR (300 MHz, CDCl3): δ 8.79 (s, 1H), 8.04 (d, 1H), 7.92 (d, 1H), 7.18 (m, 1H), 7.04 (s, 1H), 7.00 (m, 3), 6.76 (m, 1), 2.52 (s, 3H).

reactant | 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (5-fluoro-indol-1-yl)-amide | 0.824 mmol, 300 mg | FC=1C=C2C=CN(C2=CC1)NC(=O)C=1C(=NC(=NC1)C1=CC(=CC=C1)F)C | C20H14F2N4O
reactant | NCS | 1.42 mmol, 185 mg | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | MeCN | 20 mL | CC#N | C2H3N
product | 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylicacid(3 chloro-5-fluoro-indol-1-yl)-amide | 160 mg, 49% | ClC1=CN(C2=CC=C(C=C12)F)NC(=O)C=1C(=NC(=NC1)C1=CC(=CC=C1)F)C | C20H13ClF2N4O
